US06482986B1
3-Chloro-3-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]propenal, Compound IV.1
3.51 ml of oxalyl chloride are added dropwise at a temperature of between −5° C. and 2° C. to a solution of 3.72 ml of dimethylformamide and 20 ml of anhydrous dichloromethane and the reaction mixture is then stirred at room temperature for 30 minutes. 3.92 g of 1-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone (compound V.6) dissolved in 10 ml of dichloromethane are then added rapidly, after which the reaction mixture is stirred at room temperature for 12 hours. The reaction mixture is poured into a water/ice mixture and 20 ml of aqueous 2.84 M sodium ethoxide solution are then added. The resulting mixture is washed with 50 ml of sodium hydrogen carbonate solution and 50 ml of water, the phases are separated after settling has taken place, the organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The oil obtained is purified by chromatography on a column of silica gel, eluting with a 97/3 (v/v) cyclohexane/ethyl acetate mixture.

reactant | oxalyl chloride | 3.51 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 3.72 ml | CN(C=O)C | C3H7NO
reactant | 1-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone | 3.92 g | ClC=1C=C(C=CC1C1CC(CC(C1)(C)C)(C)C)C(C)=O | C18H25ClO
reactant | sodium ethoxide | 2.84 M | [O-]CC.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Chloro-3-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]propenal | ClC(=CC=O)C1=CC(=C(C=C1)C1CC(CC(C1)(C)C)(C)C)Cl | C19H24Cl2O
